US06930104B2
In the published manner (J. Org Chem. 1995, 60, 3993), benzotriazole (11.9 g, 100 mmol) and aniline (9.1 ml, 100 mmol) were dissolved in diethyl ether (200 ml), and acetaldehyde (6.1 ml, 110 mmol) was added dropwise thereto on ice. The reaction mixture was stirred at room temperature for 15 minutes and then allowed to stand overnight at −20° C. The crystallized product was collected by filtration, washed with diethyl ether and then dried to give α-methyl-N-phenyl-1H-benzotriazole-1-methanamine (22.3 g) as a white crystal. The resulting α-methyl-N-phenyl-1H-benzotriazole-1-methanamine (2.31 g, 10 mmol) and 9-vinylcarbazole (1.93 g, 10 mmol) were suspended in chloroform (10 ml), to which p-toluenesulfonic acid monohydrate (20 mg, 0.105 mmol) was then added and stirred at room temperature for 2 hours. After addition of water, the reaction mixture was extracted with chloroform. The organic layer was washed with 10% aqueous sodium carbonate and water, and then concentrated. The residue was applied to silica gel column chromatography (developing solvent: ethyl acetate/hexane=1/10) to give the titled compound (644 mg, yield over 2 steps: 20%) as a white crystal.

reactant | benzotriazole | 100 mmol, 11.9 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | aniline | 100 mmol, 9.1 ml | NC1=CC=CC=C1 | C6H7N
reactant | acetaldehyde | 110 mmol, 6.1 ml | C(C)=O | C2H4O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | α-methyl-N-phenyl-1H-benzotriazole-1-methanamine | 22.3 g | CC(NC1=CC=CC=C1)N1N=NC2=C1C=CC=C2 | C14H14N4
